US04507306
cis-2-(2-Cyanoethyl)-1,2,3,4,4a,9b-hexahyro-4a-phenyl-benzofuro[3,2-c]pyridine hydrochloride
A 10 ml round bottom flask was charged with 0.503 g of cis 1,2,3,4,4a,9b-hexahydro-4a-phenyl-benzofuro[3,2-c]pyridine followed by 1 ml of acrylonitrile. The resulting mixture was stirred for 1/2 hour at room temperature under nitrogen and then heated at 60° for 1 hour. The reaction mixture was diluted with 10 ml of ether and treated with 4 ml of ether saturated with HCl. After stirring for 15 minutes, the precipitated salt was filtered, washed with ether, and dried to give 0.68 g (99.8%) of crystalline solid, m.p. s 205°, 213°-216°. Recrystallization from ethanol afforded 0.50 g (73.3%) of crystals, m.p. s 213°, 216°-219°.

reactant | cis 1,2,3,4,4a,9b-hexahydro-4a-phenyl-benzofuro[3,2-c]pyridine | 0.503 g | C1(=CC=CC=C1)[C@@]12[C@@H](CNCC1)C1=C(O2)C=CC=C1 | C17H17NO
reactant | acrylonitrile | 1 ml | C(C=C)#N | C3H3N
reactant | HCl | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 4 ml | CCOCC | C4H10O
product | cis-2-(2-Cyanoethyl)-1,2,3,4,4a,9b-hexahyro-4a-phenyl-benzofuro[3,2-c]pyridine hydrochloride | 0.68 g, 99.8% | Cl.C(#N)CCN1C[C@@H]2[C@](CC1)(OC1=C2C=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H20N2O.ClH/c21-12-6-13-22-14-11-20(16-7-2-1-3-8-16)18(15-22)17-9-4-5-10-19(17)23-20;/h1-5,7-10,18H,6,11,13-15H2;1H/t18-,20+;/m0./s1
